US05290934
Employing ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-ethoxyacrylate (1.0 g) and p-fluoroaniline (0.39 g), the procedure of Reference Example 8 is repeated to give ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-(4-fluorophenyl)aminoacrylate, which is then treated with 60 % sodium hydride (0.15 g) as in Reference Example 9 to give ethyl 1-(4-fluorophenyl)-5-methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (0.64 g), as white crystals (recrystallized from ethanol), m.p. 256°-259° C.

reactant | ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-ethoxyacrylate | 1.0 g | CC1=C(C(=O)C(C(=O)OCC)=COCC)C(=CC(=C1F)F)F | C15H15F3O4
reactant | p-fluoroaniline | 0.39 g | FC1=CC=C(N)C=C1 | C6H6FN
product | ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-(4-fluorophenyl)aminoacrylate | CC1=C(C(=O)C(C(=O)OCC)=CNC2=CC=C(C=C2)F)C(=CC(=C1F)F)F | C19H15F4NO3
